US07781431B2
Step 6: methyl 6-benzyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate
A solution (1.1 M) of 1-benzyl-2-chloro-5-phenyl-1H-pyrrole-3-carbaldehyde in THF at 0° C. was treated with methyl thioglycolate (1.5 eq.) and a solution (2 M) of potassium tert-butoxide (2.5 eq.) in THF. The mixture was stirred at 0° C. for 2 h then at RT for 40 h. The reaction was quenched with water and pH was turned to neutral value by addition of aqueous ammonium chloride (saturated solution). The mixture was extracted with AcOEt and the combined organic phase was washed with brine and dried. Evaporation of the solvent gave a residue that was purified by flash chromatography on silica gel (1:30 acetone/toluene) to afford the title compound (38%) as a solid.

reactant | 1-benzyl-2-chloro-5-phenyl-1H-pyrrole-3-carbaldehyde | 1.1 M | C(C1=CC=CC=C1)N1C(=C(C=C1C1=CC=CC=C1)C=O)Cl | C18H14ClNO
reactant | methyl thioglycolate | 1.5 eq. | C(CS)(=O)OC | C3H6O2S
reactant | potassium tert-butoxide | 2 M, 2.5 eq. | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | methyl 6-benzyl-5-phenyl-6H-thieno[2,3-b]pyrrole-2-carboxylate | 38% | C(C1=CC=CC=C1)N1C2=C(C=C1C1=CC=CC=C1)C=C(S2)C(=O)OC | C21H17NO2S
